US04863920
4.58 g (80 mmol) of freshly powdered potassium hydroxide was suspended in 65 ml of dimethyl sulfoxide and cooled to 5°. 5.67 g (19.2 mmol) of 4,5-dihydro-3-(3-hydroxy-3-methyl-1-butynyl)-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one and 5.47 g (38.5 mmol) of methyl iodide were added thereto in succession. The cooling bath was removed and the mixture was stirred for a further 1 hour. The reaction mixture was evaporated and the residue was chromatographed on silica gel while eluting with methylene chloride/methanol (19.5:0.5). After crystallization from tert.-butyl methyl ether there was obtained 4,5-dihydro-3-(3-methoxy-3-methyl-1-butynyl)-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one of melting point 136°-137°.

reactant | potassium hydroxide | [OH-].[K+]
reactant | 4,5-dihydro-3-(3-hydroxy-3-methyl-1-butynyl)-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one | 19.2 mmol, 5.67 g | OC(C#CC=1N=CN2C1CN(C(C1=C2C=CC=C1)=O)C)(C)C | C17H17N3O2
reactant | methyl iodide | 38.5 mmol, 5.47 g | CI | CH3I
solvent | dimethyl sulfoxide | 65 ml | CS(=O)C | C2H6OS
product | 4,5-dihydro-3-(3-methoxy-3-methyl-1-butynyl)-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one | COC(C#CC=1N=CN2C1CN(C(C1=C2C=CC=C1)=O)C)(C)C | C18H19N3O2
